US06083985
(2) Preparation of (2RS,3SR)-5,5-diethoxy-3-(3,4-methylenedioxyphenyl)pentan-2-ol
To 18.3 g of 5,5-diethoxy-3-(3,4-methylenedioxyphenyl)pentan-2-one in 200 ml of tetrahydrofuran, 65 ml of 1M tetrahydrofuran solution of lithium tri-sec-butylborohydride was added under cooling at -78° C. with stirring, and the resulting solution was stirred at the same temperature for 1 hour. To the reaction solution stirred and cooled with ice, 109 ml of 3N aqueous sodium hydroxide was added, and then 48 ml of 30% aqueous hydrogen peroxide was gradually added dropwise. The reaction solution was stirred at room temperature for 1 hour and partitioned between ethyl ether and water. The organic layer was washed with saturated aqueous sodium thiosulfate and saturated aqueous sodium chloride and dried over anhydrous magnesium sulfate. The desiccant was filtered off, and the solvent was evaporated in vacuo. The residue was purified by silica gel column chromatography [hexane/ethyl acetate=10/1→3/1] to give 16.8 g of the title compound.

reactant | 5,5-diethoxy-3-(3,4-methylenedioxyphenyl)pentan-2-one | 18.3 g | C(C)OC(CC(C(C)=O)C1=CC2=C(C=C1)OCO2)OCC | C16H22O5
reactant | lithium tri-sec-butylborohydride | C(C)(CC)[BH-](C(C)CC)C(C)CC.[Li+]
reactant | sodium hydroxide | 3N, 109 ml | [OH-].[Na+]
reactant | hydrogen peroxide | 48 ml | OO | H2O2
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 1M, 65 ml | O1CCCC1 | C4H8O
product | (2RS,3SR)-5,5-diethoxy-3-(3,4-methylenedioxyphenyl)pentan-2-ol | 16.8 g | C(C)OC(CC(C(C)O)C1=CC2=C(C=C1)OCO2)OCC | C16H24O5
